US07741333B2
Preparation of 3,3-dioxo-1,2,3,8-tetrahydro-3λ6-thia-6,8-diazacyclopenta-[a]naphthalen-9-one
0.87 g (3.83 mmol) of 5-amino-1,1-dioxo-2,3-dihydro-1H-1λ6-benzo[b]-thiophene-4-carboxylic acid was suspended in 2.0 ml of N,N-dimethyl-formamide and, after addition of 0.76 ml (19.14 mmol) of formamide, reacted in a microwave at 150° C. and 60 W for 40 min. During the reaction, the pressure in the microwave rose to 20 bar. The reaction mixture was then added to water. The precipitated solid was filtered off with suction and washed successively with water and diethyl ether and dried in vacuo overnight. 440 mg of the desired compound were obtained.

reactant | 5-amino-1,1-dioxo-2,3-dihydro-1H-1λ6-benzo[b]-thiophene-4-carboxylic acid | 3.83 mmol, 0.87 g | NC1=C(C2=C(S(CC2)(=O)=O)C=C1)C(=O)O | C9H9NO4S
reactant | formamide | 19.14 mmol, 0.76 ml | C(=O)N | CH3NO
reactant | water | O | H2O
solvent | N,N-dimethyl-formamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 3,3-dioxo-1,2,3,8-tetrahydro-3λ6-thia-6,8-diazacyclopenta-[a]naphthalen-9-one | 440 mg | O=S1(CCC=2C1=CC=C1N=CNC(C21)=O)=O | C10H8N2O3S
